US05547967
32 ml of ethyl acetoacetate were added dropwise with ice cooling to 100 ml of 21% strength sodium ethylate solution in ethanol (=solution I). After 20 minutes 75 ml of a solution of 50 g of 3,4-dimethoxybenzoyl chloride in 150 ml of tetrahydrofuran (=solution II) were added dropwise to the reaction mixture. Subsequently further quanities of solutions I and II were added dropwise to the reaction mixture alternately, each at intervals of 20 minutes, until the reaction mixture contained a total of 190 ml of solution I and 176 ml of solution II. After 16 hours the precipitated salts were filtered out, washed with tetrahydrofuran and then suspended in water. The aqueous mixture was acidified to pH 1 with ice cooling and was extracted with methyl tert-butyl ether. The extract was evaporated to dryness, and 45 g of ethyl 2-acetyl-2-(3,4-dimethoxybenzoyl)-acetoacetate were obtained as a yellow oil.

reactant | ethyl acetoacetate | 32 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | 3,4-dimethoxybenzoyl chloride | 50 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 176 ml | O1CCCC1 | C4H8O
solvent | ethanol | 190 ml | C(C)O | C2H6O
product | ethyl 2-acetyl-2-(3,4-dimethoxybenzoyl)-acetoacetate | 45 g | C(C)(=O)C(C(=O)OCC)(C(=O)C)C(C1=CC(=C(C=C1)OC)OC)=O | C17H20O7
